US04687509
N,N,N-tributyl-(3-hydroxybenzyl)ammonium iodide
A mixture was prepared containing 10 g (0.042 m) of 3-hydroxy N,N-dibutylbenzylamine, 15 g (0.082 m) of butyliodide and 25 ml of acetonitrile. The mixture was heated to reflux overnight. The completion of the reaction was determined by high pressure liquid chromatography. After completion, the solvent was removed and the residue triturated with ether, filtered and dried. The desired N,N,N-tributyl-(3-hydroxybenzyl)ammonium iodide product was recovered as a white powder in a yield of 15.7 g. The product melted at 128° C.-130° C. and its elemental analysis is as follows:

reactant | 3-hydroxy N,N-dibutylbenzylamine | 10 g | OC=1C=C(CN(CCCC)CCCC)C=CC1 | C15H25NO
reactant | butyliodide | 15 g | C(CCC)I | C4H9I
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N,N,N-tributyl-(3-hydroxybenzyl)ammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CC1=CC(=CC=C1)O | InChI=1S/C19H33NO.HI/c1-4-7-13-20(14-8-5-2,15-9-6-3)17-18-11-10-12-19(21)16-18;/h10-12,16H,4-9,13-15,17H2,1-3H3;1H
